US09359381B2
Step 3: (5-Oxotetrahydrofuran-3-yl)methyl trifluoromethanesulfonate
A solution of trifluoromethanesulfonic anhydride (15.0 g, 53.2 mmol) in DCM (25 mL) was added dropwise to a solution of 4-(hydroxymethyl)dihydrofuran-2(3H)-one (4.75 g, 41.0 mmol) and 2,6-lutidine (7.15 mL, 61.4 mmol) in DCM (111 mL) at 0° C. The mixture was stirred at 0° C. for 20 minutes. The product mixture was diluted with DCM (100 mL) and was washed with water (3×100 mL). The organic phase was dried over magnesium sulfate and evaporated under vacuum.

reactant | trifluoromethanesulfonic anhydride | 53.2 mmol, 15.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-(hydroxymethyl)dihydrofuran-2(3H)-one | 41.0 mmol, 4.75 g | OCC1CC(OC1)=O | C5H8O3
reactant | 2,6-lutidine | 61.4 mmol, 7.15 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 111 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (5-Oxotetrahydrofuran-3-yl)methyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC1COC(C1)=O)(F)F | C6H7F3O5S
